US08119666B2
Benzoic acid 5-benzyl-2-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl ester
To a solution of 5-(4-benzyl-2-hydroxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one (45 mg, 0.141 mmol) in DMF (0.2 mL) is added KOtBu (1.0 M in THF, 0.17 mL, 0.17 mmol). After it is stirred at ambient temperature for 5 min., benzoyl chloride (35 mg, 0.254 mmol) is added. After it is stirred at ambient temperature for 10 min., the reaction is quenched with 1N HCl solution. The residue is then purified by prep. HPLC using CH3CN (0.1% TFA)/water (5-70%) to give the title compound: MS (M−H)−=421.

reactant | 5-(4-benzyl-2-hydroxyphenyl)-1,1-dioxo-1,2,5-thiadiazolidin-3-one | 0.141 mmol, 45 mg | C(C1=CC=CC=C1)C1=CC(=C(C=C1)N1CC(NS1(=O)=O)=O)O | C15H14N2O4S
reactant | KOtBu | 0.17 mmol, 1.0 M, 0.17 mL | CC(C)(C)[O-].[K+]
reactant | benzoyl chloride | 0.254 mmol, 35 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | DMF | 0.2 mL | CN(C)C=O | C3H7NO
product | Benzoic acid 5-benzyl-2-(1,1,4-trioxo-1,2,5-thiadiazolidin-2-yl)-phenyl ester | C(C1=CC=CC=C1)C=1C=CC(=C(C1)OC(C1=CC=CC=C1)=O)N1S(NC(C1)=O)(=O)=O | C22H18N2O5S
